US07465738B2
Dry DMF (0.6 mL) was added slowly to POCl3 (0.9 mL) at room temperature under nitrogen atmosphere, and the mixture stirred for 5 minutes. 5-fluoro-2-methyl-1H-indole (149 mg, 1.0 mmol) was dissolved in 5 mL dry DMF and added slowly to the rapidly stirring mixture to keep the temperature below 35° C. After stirring for 2 h at room temperature, the reaction mixture was poured into 30 mL ice water. The aqueous layer was basified (30 mL 1.0 N NaOH) and extracted into methylene chloride. The organic layer was washed with water (1×50 mL), brine (1×50 mL), and dried over Na2SO4. The solvent was removed in vacuo to yield an off-white solid. The solid was brought up in 1:3 MeOH/methylene chloride and filtered through a short plug of silica to remove colored impurities. The dried-down solid was then washed with dry acetonitrile to provide the product 5-fluoro-2-methyl-1H-indole-3-carbaldehyde as a crystalline white solid (105 mg, 55% yield) after drying. 1H NMR (400 mHz, DMSO-d6) δ 12.10 (s, 1H), 10.03 (s, 1H), 7.72 (dd, J=9.7, 2.6 Hz, 1H), 7.38 (dd, J=8.8, 4.5 Hz, 1H), 7.01 (dt, J=9.2, 2.6 Hz, 1H), 3.34 (s, 1H), 2.68 (s, 3H).

reactant | POCl3 | 0.9 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 5-fluoro-2-methyl-1H-indole | 1.0 mmol, 149 mg | FC=1C=C2C=C(NC2=CC1)C | C9H8FN
reactant | NaOH | 1.0 N, 30 mL | [OH-].[Na+]
reactant | MeOH methylene chloride | CO.C(Cl)Cl
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 5-fluoro-2-methyl-1H-indole-3-carbaldehyde | 105 mg, 55% yield | FC=1C=C2C(=C(NC2=CC1)C)C=O | C10H8FNO
